US06417222B1
3-(3-Thienyl)benzaldehyde (2a)
3.11 g of 3-thiopheneboronic acid (0.024 mol) are added to a solution of 3-bromobenzaldehyde (3 g, 0.016 mol) in 1,2-dimethoxyethane (80 ml), followed by addition of aqueous 2N sodium carbonate solution (5.15 g, 0.048 mol) and a catalytic amount of tetrakis(triphenylphosphine)palladium (0.56 g, 4.9 10−4 mol). The reaction mixture is heated at 80° C. for 16 hours and is then cooled to room temperature and poured into water. The resulting mixture is extracted with ethyl acetate and the organic phase is washed with saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulfate and filtered, and the solvent is evaporated off under reduced pressure. The title product is isolated by chromatography on a column of silica (eluent: 90/10 cyclohexane/ethyl acetate). 2.61 g of a pale yellow solid are recovered.

reactant | 3-thiopheneboronic acid | 0.024 mol, 3.11 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 3-bromobenzaldehyde | 0.016 mol, 3 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | sodium carbonate | 0.048 mol, 2N, 5.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 80 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 10−4 mol, 0.56 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Thienyl)benzaldehyde | Yield: 86% | S1C=C(C=C1)C=1C=C(C=O)C=CC1 | C11H8OS
